US07973061B2
2-(tert-Butoxycarbonylamino-methyl)-1H-imidazole-4-carboxylic acid:
Di-tert-butylpyrocarbonate (2.7 mL, 11.8 mmol) was added to a stirring solution of 2-(aminomethyl)imidazole-4-carboxylic acid (1.0 g, 5.9 mmol) and DIEA (2.2 mL, 12 mmol) in dioxane (20 mL). The reaction mixture was allowed to stir for 48 hours. The dioxane was removed in vacuo and the resulting residue was dissolved in methylene chloride, washed with 1 N HCl and saturated sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was dissolved in methanol (20 mL). NaOH (2.4 g, 59 mmol) was dissolved in water (20 mL) and added to the methanolic solution. The reaction mixture was heated and allowed to stir for 12 hours. The methanol was removed in vacuo and the aqueous solution was acidified with 1 N HCl and extracted with EtOAc ×3. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (1.3 g, 91%): 1H NMR (400 MHz, d6-DMSO): 7.32 (s, 1H), 6.91 (br s, 1H), 4.09 (d, 2H), 1.38 (s, 9H); MS (ESI-LCMS) for C10H16N3O4: 242 (MH+).

reactant | Di-tert-butylpyrocarbonate | 11.8 mmol, 2.7 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(aminomethyl)imidazole-4-carboxylic acid | 5.9 mmol, 1.0 g | NCC=1NC=C(N1)C(=O)O | C5H7N3O2
reactant | DIEA | 12 mmol, 2.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 59 mmol, 2.4 g | [OH-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | 2-(tert-Butoxycarbonylamino-methyl)-1H-imidazole-4-carboxylic acid | 1.3 g, 91% | C(C)(C)(C)OC(=O)NCC=1NC=C(N1)C(=O)O | C10H15N3O4
